US08278345B2
Compound 387: 1-(1H-Benzoimidazol-5-yl)-4-butyryl-3-hydroxy-5-(4-pyridin-2-yl-phenyl)-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 4-Pyridin-2-yl-benzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2,4-Dioxo-heptanoic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-Pyridin-2-yl-benzaldehyde | 1 mmol | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | 2,4-Dioxo-heptanoic acid ethyl ester | 1 mmol | C(C)OC(C(CC(CCC)=O)=O)=O | C9H14O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-4-butyryl-3-hydroxy-5-(4-pyridin-2-yl-phenyl)-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=CC=C(C=C2)C2=NC=CC=C2)C(CCC)=O)O)=O | C26H22N4O3
